Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right lower quadrant pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ G2P1 with LMP of ___ who underwent IVF cycle with hCG 
trigger on ___ and egg retrieval on ___ which was uncomplicated. 
 Pain began on ___ with low grade fevers until ___.  At that 
time patient's tmax was 100.7.  On ___ embryos were 
transfered.  Pt then noted severe abdominal pain localizing to 
her right lower quadrant. 
 
Past Medical History:
-HTN (had borderline HTN and was recently started on Labetalol
100 BID prior to the IVF cycle)
-GERD
-Asthma (well-controlled currently. No recent hospitalizations.
Notes she remained intubated in the PACU after a prior surgery
because of wheezing. Oral steroid course years ago.)

 
Social History:
Works as ___. No tobacco or drug use. No current ETOH use, 
social use before.

 
Physical Exam:
98.6  98.4  108/70  83  18  100%/RA
NAD
RRR
CTAB
Abd: ND, soft, tender to palpation in lower abdomen RLQ>LLQ, no 
rebound, no guarding
Peripad: clean
Ext: no calf tenderness
 
Pertinent Results:
___ 07:00AM BLOOD WBC-7.9 RBC-3.74* Hgb-10.8* Hct-31.3* 
MCV-84 MCH-28.7 MCHC-34.3 RDW-13.3 Plt ___
___ 01:30PM BLOOD WBC-9.6 RBC-4.16* Hgb-11.8* Hct-34.6* 
MCV-83 MCH-28.3 MCHC-34.0 RDW-13.0 Plt ___
___ 01:30PM BLOOD Neuts-70.1* ___ Monos-2.9 Eos-3.0 
Baso-0.2
___ 01:30PM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-133 K-3.6 
Cl-101 HCO3-26 AnGap-10
 
Brief Hospital Course:
Pt presented to the ED with right lower quadrant pain requiring 
narcotic pain medication and history of low grade fever.  
Ultrasound examination in the ED demonstrated good flow to both 
ovaries with no free fluid in the pelvis.  Her appendix measured 
4cm.  MRI of the abdomen was negative for any signs of 
appendicitis.  Her right ovary measured 11cm and left measured 
7cm consistent with hyperstimulation.  Pt was admitted for 
serial abdominal exams and kept NPO with IV fluids overnight.  
Overnight, pt's pain was controlled with one percocet overnight. 
 In the am, her pain was much improved.  Pt reported feeling 
comfortable and remained afebrile with normal vital signs.  
Diagnosis most consistent with pain from enlarged right ovary.  
No evidence of torsion currently howevever, this cannot be ruled 
out.  Pt discharged to home on hospital day #3 with strict 
instructions to call back or return to the ED if she has 
increased abdominal pain, nausea, vomiting, fevers, or chills. 
Pt was comfortable with this plan.  
 
Medications on Admission:
-Percocet x 4 (over past ___ days)
-Labetalol 100 mg BID
-Prilosec
-Albuterol prn
-Prenatal vitamin
-Recent IVF stimulation: Estrace 2mg TID, Progesterone (50
mcg/1cc) 1 cc injected daily, s/p mini-Lupron and Gonel-F

 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4-6H () as needed: Do not exceed 4g tylenol in 24 hours.
Disp:*20 Tablet(s)* Refills:*0*
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Enlarged right ovary

 
Discharge Condition:
stable

 
Discharge Instructions:
Please call for fever >100.4, chills, increased abdominal pain, 
nausea, vomiting, vaginal bleeding, any questions or concerns 
you may have.  
 
Followup Instructions:
___